US07220862B2
2-Benzyloxycarbonylamino-3-(6-methoxy-pyridin-3-yl)-acrylic acid methyl ester
To a suspension of potassium tert-butoxide (1.23 g, 1.5 equiv) in methylene chloride (70 mL, −20° C.) was added a solution of N-benzyloxycarbonyl-α-phosphonoglycine trimethyl ester (3.63 g, 1.5 equiv) in methylene chloride (15 mL). The resulting solution was stirred 5 min and treated with the 6-methoxy-pyridine-3-carbaldehyde (1.0 g, 7.3 mmol) in methylene chloride (15 mL). After stirring for 1.5 h, the reaction was warmed to 0° C. and stirred 1 h. The reaction was quickly poured into a separatory funnel containing ethyl acetate and water. Brine was added to aid in separation of the layers. The aqueous was extracted with ethyl acetate (3×) which were in turn washed with brine, dried over magnesium sulfate, and concentrated to give 2.63 g (quant.) which was used without purification. Mass spec.: 343.08 (MH)+.

reactant | potassium tert-butoxide | 1.23 g, 1.5 equiv | CC(C)([O-])C.[K+]
reactant | 6-methoxy-pyridine-3-carbaldehyde | 7.3 mmol, 1.0 g | COC1=CC=C(C=N1)C=O | C7H7NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | Brine | [Cl-].[Na+].O
product | 2-Benzyloxycarbonylamino-3-(6-methoxy-pyridin-3-yl)-acrylic acid methyl ester | COC(C(=CC=1C=NC(=CC1)OC)NC(=O)OCC1=CC=CC=C1)=O | C18H18N2O5
